US04916145
A solution of 50 g of 3',4'-dimethyl[1,1'-biphenyl]-4-carboxylic acid in 200 mL of DMF was cooled in an ice bath and 5.2 mL of diphenylphosphoryl azide was added. After 20 minutes, 3.9 mL of triethylamine was added, and after a further hour, 4.0 g of rac. alpha-methyl-3-pyridinebutanamine was added and the mixture was allowed to warm to room temperature over night. The solvent was evaporated, the residue was taken up in dichloromethane and washed with water and bicarbonate, dried (MgSO4), and purified by preparative hPlc eluting with 95:5 dichloromethane-methanol to give 4.1 g (65%) of rac.-3',4'-dimethyl-N-[1-methyl-4-(3-pyridinyl)butyl][1,1'-biphenyl]4-carboxamide, mp 118°-120° C. after recrystallization from ethyl acetate-hexane. The analytical sample was obtained from ethyl acetate. mp 120°-121° C.

reactant | 3',4'-dimethyl[1,1'-biphenyl]-4-carboxylic acid | 50 g | CC=1C=C(C=CC1C)C1=CC=C(C=C1)C(=O)O | C15H14O2
reactant | diphenylphosphoryl azide | 5.2 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 3.9 mL | C(C)N(CC)CC | C6H15N
reactant | rac. alpha-methyl-3-pyridinebutanamine | 4.0 g | CC(CCCC=1C=NC=CC1)N | C10H16N2
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | rac.-3',4'-dimethyl-N-[1-methyl-4-(3-pyridinyl)butyl][1,1'-biphenyl]4-carboxamide | 4.1 g, 65% | CC=1C=C(C=CC1C)C1=CC=C(C=C1)C(=O)NC(CCCC=1C=NC=CC1)C | C25H28N2O
